US05166025
In a four-neck flask having an inner volume of 200 ml, 19.6 g (98 m.mols) of 3,4,5,6 -tetrafluiorophthalonitrile, 21.6 g (196 m.mols) of thiophenol, 17.1 g (294 m.mols) of potassium fluoride (KF), and 100 ml of acetonitrile were placed and stirred at 50° C. for reaction for 12 hours. Then, the reaction mixture was cooled to room temperature. The yellow solid which formed consequently in the mixture was separated by filtration. The cake thus obtained was purified by washing first with methanol and then with hot water, to obtain 34.5 g of 3,6-difluoro-4,5-bisphenylthiophthalonitrile (yield: 92.5 mol % based on 3,4,5,6-tetrafluoronitrile).

reactant | thiophenol | 21.6 g | C1(=CC=CC=C1)S | C6H6S
reactant | potassium fluoride | 17.1 g | [F-].[K+]
reactant | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 3,6-difluoro-4,5-bisphenylthiophthalonitrile | 34.5 g | FC1=C(C(C#N)=C(C(=C1SC1=CC=CC=C1)SC1=CC=CC=C1)F)C#N | C20H10F2N2S2
